US06664265B2
Methyl [2-(4-Amino-1H-imidazo[4,5-c]quinolin-1-yl)butoxy]acetate
2-(4-Amino-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-ol (25 mg, 0.0975 mmol) was placed in a 2 dram (7.4 mL) vial. Sodium hydride (5 mg of a 60% dispersion in mineral oil, 0.117 mmol) and N,N-dimethylformamide (1 mL) were added. The vial was placed on a sonicator for 15 minutes at ambient temperature to allow the alkoxide to form. Methyl bromoacetate (11 μL, 0.117 mmol) was added. The reaction was sonicated at ambient temperature for 1.5 hours. The reaction mixture was analyzed by LC/MS to confirm the formation of the desired product. The reaction mixture was purified by semi-preparative HPLC using Method A Mass Measurement (Da.): Theoretical mass=328.1535, Measured mass=328.1534.

reactant | 2-(4-Amino-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-ol | 0.0975 mmol, 25 mg | NC1=NC=2C=CC=CC2C2=C1N=CN2C(CO)CC | C14H16N4O
reactant | Sodium hydride | [H-].[Na+]
reactant | Methyl bromoacetate | 0.117 mmol, 11 μL | BrCC(=O)OC | C3H5BrO2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | Methyl [2-(4-Amino-1H-imidazo[4,5-c]quinolin-1-yl)butoxy]acetate | NC1=NC=2C=CC=CC2C2=C1N=CN2C(COCC(=O)OC)CC | C17H20N4O3
